Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],1.99637453684
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.67728515013
[C:2](=[O:3])[H:4].[O:1]>>[O:1][C:2](=[O:3])[H:4],-4.56849925052
[C:3]#[C:4][C:5][C:6]([H:7])[H:8].[O:1]=[O:2]>>[O:1][O:2][C:3]#[C:4][C:5][C:6]([H:7])[H:8],-1.26927885658
[O:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2],3.0627815673
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1],8.32351426217
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6](=[O:7])[H:8]>>[H:8].[O:1]=[C:2]([H:3])[C:4][C:5]#[C:6][O:7],3.31256929274
[H:1][C:2]([H:3])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.8621125678
[H:1][C:2]([O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-0.0941989331295
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],1.20360816585
[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]#[C:4][H:5].[O:1]=[C:2][O:6][C:7]([H:8])([H:9])[H:10],5.46732748176
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.5850124113600002
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10],3.70524634015
[H:5].[O:1]=[C:2]([O:3][C:4][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.14515269661
[H:1][C:2]#[C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[C:2]#[C:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])[H:10].[H:1],5.668464051490001
[C:1].[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.6147763317
[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:11])[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.27689034982
[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.09516689438
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:1],3.62327337045
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.90865689251
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.06690931618
[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.98642623876
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.98917002877
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:4][H:5].[O:1][O:2][C:3][C:6]([H:7])([H:8])[H:9],7.33318042592
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13],2.80103527915
[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.1813995307900003
[H:14].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.58539937342
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-2.68496536033
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8][H:9],-2.38736746868
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.59194508
